US05434188
To an ice water cooled solution of 6-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxylic acid (5.0 g, 19 mmol) in 50 mL of THF is added 2 drops of DMF followed by oxalyl chloride (2.8 g, 21 mmol). The solution is stirred a room temperature for 2 hours then poured onto 150 mL of aqueous NH4OH. An additional 700 mL of water is added and the resultant precipitate collected. Recrystallization from ethyl acetate provides 6-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxamide in 74% yield; mp 183°-184° C.

reactant | 6-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxylic acid | 19 mmol, 5.0 g | COC=1C=C2C=CC(=C(C2=CC1)OC(C)C)C(=O)O | C15H16O4
reactant | oxalyl chloride | 21 mmol, 2.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | NH4OH | 150 mL | [NH4+].[OH-]
reactant | water | 700 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 6-methoxy-1-(1-methylethoxy)-2-naphthalenecarboxamide | 74% yield | COC=1C=C2C=CC(=C(C2=CC1)OC(C)C)C(=O)N | C15H17NO3
